US05173489
9,9-Bis(4-pyridinylmethyl)-2-(1-hydroxyethyl)fluorene
To 300 mg of 9,9-bis(4-pyridinylmethyl)-2-acetylfluorene was dissolved in 5ml of ethanol cooled to 0° was added 100 mg of sodium borohydride. The reaction mixture was warmed to room temperature overnight, quenched with water and methanol and the solvents evaporated. The residue was partitioned between ethyl acetate and 1N NaOH, washed with water, brine, dried (MgSO4) and evaporated. Recrystallization from ethanol yielded product. NMR (CDCl3, 200 MHz) δ: 1.50(d,J=6.5Hz,3H), 3.39(s,4H), 4.92(q,J=6.4Hz,1H), 6.43(2d,4H), 7.08-7.58(m,arom.), 7.87(D,2H), 7.97(d,2H).

reactant | 9,9-bis(4-pyridinylmethyl)-2-acetylfluorene | 300 mg | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)C(C)=O)CC1=CC=NC=C1 | C27H22N2O
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | ethanol | 5ml | C(C)O | C2H6O
product | 9,9-Bis(4-pyridinylmethyl)-2-(1-hydroxyethyl)fluorene | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)C(C)O)CC1=CC=NC=C1 | C27H24N2O
